US08912188B2
To a solution of 2-(6-(tert-butoxycarbonylamino)pyridin-3-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid (140.0 mg, 0.32 mmol) in dichloromethane (50 mL) was added CF3COOH (182.6 mg, 1.60 mmol) with stirring overnight at room temperature. The reaction mixture was concentrated under vacuum, dissolved in water (10 mL) and adjusted to pH 6 with sodium bicarbonate. The product were collected by filtration to afford 2-(6-aminopyridin-3-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid as a light yellow solid (88.6 mg, 78%).

reactant | 2-(6-(tert-butoxycarbonylamino)pyridin-3-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | 0.32 mmol, 140.0 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C=N1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)O | C23H27N5O4
reactant | CF3COOH | 1.60 mmol, 182.6 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-(6-aminopyridin-3-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | 88.6 mg, 78% | NC1=CC=C(C=N1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)O | C18H19N5O2
